US09403798B2
tert-Butyl (3S,4S)-4-hydroxy-4-(6-methylpyridin-2-yl)-3-(pivaloyloxy)piperidine-1-carboxylate
A 1,4-dioxane (46 mL)-water (12 mL) solution of tert-butyl (3S,4S)-4-(6-chloropyridin-2-yl)-4-hydroxy-3-(pivaloyloxy)piperidine-1-carboxylate (2.30 g, 5.57 mmol) synthesized in Reference Synthesis Example 152, 2,4,6-trimethyl-1,3,5,2,4,6-trioxatriborinane (1.2 mL, 13.4 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium (II) dichloride-dichloromethane complex (915 mg, 1.12 mmol), and sodium carbonate (1.20 g, 11.3 mmol) was stirred under argon atmosphere at 88° C. for 3 hours. After completion of the reaction, saturated ammonium chloride aqueous solution was added to the reaction solution and extraction from the resultant mixture with chloroform was performed. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1) to obtain the title compound (1.50 g, yield 69%).

reactant | tert-butyl (3S,4S)-4-(6-chloropyridin-2-yl)-4-hydroxy-3-(pivaloyloxy)piperidine-1-carboxylate | 5.57 mmol, 2.30 g | ClC1=CC=CC(=N1)[C@@]1([C@H](CN(CC1)C(=O)OC(C)(C)C)OC(C(C)(C)C)=O)O | C20H29ClN2O5
reactant | 2,4,6-trimethyl-1,3,5,2,4,6-trioxatriborinane | 13.4 mmol, 1.2 mL | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | sodium carbonate | 11.3 mmol, 1.20 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | 12 mL | O | H2O
solvent | 1,4-dioxane | 46 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl (3S,4S)-4-hydroxy-4-(6-methylpyridin-2-yl)-3-(pivaloyloxy)piperidine-1-carboxylate | 1.50 g, yield 69% | O[C@]1([C@H](CN(CC1)C(=O)OC(C)(C)C)OC(C(C)(C)C)=O)C1=NC(=CC=C1)C | C21H32N2O5
